US04775671
7.70 g (2.72 mmol) of (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylic acid in 40 ml of N,N-dimethylformamide are stirred at room temperature for 10 minutes and at 85° for 20 minutes with 4.41 g (27.2 mmol) of N,N'-carbonyldiimidazole. 2.72 g (27.2 mmol) of cyclopropanecarboxamidoxime are subsequently added thereto and the mixture is stirred at 110° for a further hour. After removing the N,N-dimethylformamide the residue is stirred in 30 ml of acetic acid at 120° for 4 hours. The solution is evaporated and the residue is partitioned between methylene chloride and saturated sodium bicarbonate solution. The organic phase is separated, dried over magnesium sulphate and evaporated. By recrystallization from ethyl acetate there is obtained (S)-1-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one of melting point 211°-212°.

reactant | (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylic acid | 2.72 mmol, 7.70 g | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C(=O)O)CCC2 | C15H13N3O3
reactant | cyclopropanecarboxamidoxime | 27.2 mmol, 2.72 g | C1(CC1)C(N)=NO | C4H8N2O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | (S)-1-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | C1(CC1)C1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CCC1 | C19H17N5O2
